US05334225
To a mixture of 15 ml of ethanol with 15 ml of water, there was added 20.0 g (163 mmol) of 6-amino-m-cresol. To the solution thus obtained, there was added dropwise 22.2 g (171 mmol) of propionic anhydride over 30 minutes. After stirring at room temperature for 20 minutes, 15 ml of water was added thereto. The crystal thus precipitated were filtered and recrystallized from a solvent mixture of ethanol and water (7:8 (v:v)). Thus 21.8 g (122 mmol)of N-(2-hydroxy-4-methylphenyl)propionamide was obtained as colorless crystals. The yield was 75%.

reactant | ethanol | 15 ml | C(C)O | C2H6O
reactant | 6-amino-m-cresol | 163 mmol, 20.0 g | NC=1C=CC(=CC1O)C | C7H9NO
reactant | propionic anhydride | 171 mmol, 22.2 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | water | 15 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | N-(2-hydroxy-4-methylphenyl)propionamide | 122 mmol, 21.8 g, yield was 75% | OC1=C(C=CC(=C1)C)NC(CC)=O | C10H13NO2
